* debug_boot.cir — SPICE subckt for the carrier debug_boot subsystem.
*
* CARRIER-LOCAL: the subckt pins are the subsystem's real carrier nets (rails +
* the strapped debug/boot signals), NOT abstract names. debug_boot has NO active
* parts (it is headers + a DIP + a reset tact), so this subckt captures the
* full PASSIVE network it adds: the JTAG insurance pull-ups, the BOOT0 series
* strap, and the BOOTSEL/spare defined-high pull-ups. The DIP/reset switch
* contacts are open at DC (the operator closes them), so the pull-ups define
* every strapped node's resting level.
*
* Values mirror carrier/subsystems/debug_boot/debug_boot.py one-for-one:
*   R1 4k7  JTAG TMS pull-up   (+3V3 -> ZYNQ_TMS)
*   R2 4k7  JTAG TDI pull-up   (+3V3 -> ZYNQ_TDI)
*   R3 100R BOOT0 series strap (+3V3_SC -> BOOT0_SET, DIP pos1)
*   R4 10k  BOOTSEL0 pull-up   (+3V3_SC -> STM32_GPIO7)
*   R5 10k  BOOTSEL1 pull-up   (+3V3_SC -> STM32_GPIO8)
*   R6 10k  spare    pull-up   (+3V3_SC -> BOOT_SPARE)
*
* Port order: the two rails, GND, then the strapped signals.

.subckt debug_boot V3V3 V3V3SC GND TMS TDI BOOT0SET GPIO7 GPIO8 BOOTSPARE

* JTAG insurance pull-ups (Zynq dedicated JTAG pins float without a probe)
R1 V3V3 TMS 4k7
R2 V3V3 TDI 4k7

* BOOT0 series strap: 100R from +3V3_SC into the DIP pos1 node (vs the SoM's
* 1k5 pull-down -> ~3.1 V at BOOT0 when the DIP closes).
R3 V3V3SC BOOT0SET 100R

* BOOTSEL[0:1] + spare defined-high pull-ups (closed = GND, open = pulled high)
R4 V3V3SC GPIO7 10k
R5 V3V3SC GPIO8 10k
R6 V3V3SC BOOTSPARE 10k

.ends debug_boot

* Standalone smoke harness (ngspice -b; harmless under any board use): the
* always-on SC rail at 3.3 V holds an open BOOTSEL strap high through its 10k.
.subckt _src P
V1 vin 0 3.3
R1 vin P 10k
.ends _src
.end
